US08476297B2
2-Phenyl-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone
To a solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.36 mmol, example 9 (step 3) and DIEA (62.8 μL, 0.36 mmol) in DCM (2 mL) was added phenylacetyl chloride (47.7 μL, 0.36 mmol). The resulting mixture was stirred at RT for 16 h. Then, H2O (3 mL) was added and the mixture was extracted with DCM (2×5 mL). The combined organic extracts were concentrated and the residue was dissolved in MeOH (1 mL). The solution mixture was purified by preparative HPLC (10-100% of MeCN (0.1% TFA)/H2O (0.1% TFA) to give the title compound as an off-white thick oil. MS (ESI, positive ion) m/z: 396 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.36 mmol, 62.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenylacetyl chloride | 0.36 mmol, 47.7 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | H2O | 3 mL | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | C1(=CC=CC=C1)CC(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C24H20F3NO
